US04883908
A mixture of 12.7 g 2,4-toluene bis (diethylurea) in 248 g o-xylene was charged to a 500 ml fluted flask equipped with a bottom take-off, a mechanical stirrer using a 1.5 inch "Teflon" crescent-shaped paddle, a condenser, and a thermocouple to monitor reaction temperature. The mixture was heated to 120° C. and then 8.75 g methane sulfonic acid was added in one portion. The mixture was stirred for 15 min at 120° C. and then the phases were allowed to settle at 50° C. The bottom salt phase was drawn off through the bottom take-off. Analysis of the xylene phase by HPLC and infrared analysis showed 100% conversion of the toluene bis (diethylurea) with a 98% yield of toluene diisocyanate. The xylene phase was then transferred to a round bottom flask equipped with a 12" Vigreux column and a distillation head for vacuum distillation. Octadecane, 65 g, was added to the flask and then the xylene was distilled overhead at 40 mm Hg. TDI was then distilled over 10 mm Hg. A heart cut of TDI containing 6.1 g TDI was obtained for an isolated yield of 88% for toluene diisocyanate.

reactant | methane sulfonic acid | 8.75 g | CS(=O)(=O)O | CH4O3S
reactant | toluene bis (diethylurea) | C(C)NC(NCC)=O.C(C)NC(NCC)=O.C1(=CC=CC=C1)C
solvent | o-xylene | 248 g | CC=1C=CC=CC1C | C8H10
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | toluene diisocyanate | 98% yield | CC=1C(N=C=O)=CC(N=C=O)=CC1 | C9H6N2O2
